* C:\Users\aldon\Documents\ee310-team16\Phase2-Transmitter\LTSpice\Phase-2-hardware-design.asc
XU1 U1+ N001 Vcc+ Vcc- N002 TLC081
XU2 N003 U2- Vcc+ Vcc- Vout1 TLC081
V1 Vcc+ 0 5
V2 0 Vcc- 0
R1 N001 Vout1 68k
R2 N003 N002 15k
R3 Vout1 N003 27k
C1 N002 N001 341p
V3 U1+ 0 2.2
V4 U2- 0 2.2
Rb1 Vout1 0 15k
Q1 Vcc+ Vout1 N005 0 NPN
Q2 N004 N005 N006 0 NPN
Re2 N006 0 27
D1 Vcc+ N004 D
Rpullup Vcc+ Vout1 100k
.model D D
.lib C:\Users\aldon\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\aldon\AppData\Local\LTspice\lib\cmp\standard.bjt
.include TLC081.mod
.tran 0 10m 9.9m
.backanno
.end
